US04386031
(b) 8-(N-Phenyl-benzamido)-caprylic acid
21.7 g (0.06 mol) of 8-(N-phenyl-benzamido)-caprylic acid methylester are dissolved in 80 cc. of methanol. 3.9 g (0.07 mol) of potassium hydroxide are added thereto. The mixture is stirred at 25° C. for 48 hours, the solvent is distilled off and the residue is dissolved in water. The aqueous phase is several times shaken with ether, the ethereal layers are discarded. The aqueous phase is acidified with dilute hydrochloric acid and is extracted with ether. The ethereal layer is washed with water and dried over MgSO4. The solvent is distilled off and the residue is purified chromatographically on silicic acid using a mixture of chloroform and methanol as eluant.

reactant | 8-(N-phenyl-benzamido)-caprylic acid methylester | 0.06 mol, 21.7 g | COC(CCCCCCCN(C(C1=CC=CC=C1)=O)C1=CC=CC=C1)=O | C22H27NO3
reactant | potassium hydroxide | 0.07 mol, 3.9 g | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 8-(N-Phenyl-benzamido)-caprylic acid | C1(=CC=CC=C1)N(C(C1=CC=CC=C1)=O)CCCCCCCC(=O)O | C21H25NO3
